US07166604B2
Aluminium trichloride (85 mg, 638 μmol) was added as a single portion to a stirred mixture of 2-chloro-6-methoxyquinoxaline (73 mg, 375 μmol) and anhydrous toluene (3 ml) under an Argon atmosphere. The reaction mixture was heated at reflux for approx. 1 hr, then allowed to stir overnight at room temperature. Tlc (silica; 2:1 hexane/ethyl acetate) showed no remaining starting material and new polar material. Water (1 ml) and ice was added and the mixture stirred. The contents were partitioned between water (5 ml) and ethyl acetate (100 ml). The aqueous phase was extracted into ethyl acetate (50 ml), then the organic extracts combined and washed with water (10 ml), followed by brine (10 ml) and dried (Na2SO4). Concentration gave a brown solid, which was pre-adsorbed onto silica, then chromatographed on silica (9 g); eluent: 20% ethyl acetate in hexane then 25% ethyl acetate in hexane to give 2-chloro-6-hydroxyquinoxaline 54 mg (79%).

reactant | Aluminium trichloride | 638 μmol, 85 mg | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 2-chloro-6-methoxyquinoxaline | 375 μmol, 73 mg | ClC1=NC2=CC=C(C=C2N=C1)OC | C9H7ClN2O
reactant | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | Water | 1 ml | O | H2O
product | 2-chloro-6-hydroxyquinoxaline | 54 mg, 79% | ClC1=NC2=CC=C(C=C2N=C1)O | C8H5ClN2O
